US04720500
The procedure is analogous to that described in Example 11, but starting with sodium (2.3 g), 3-methylacetophenone (13.4 g) and ethyl formate (11 g). The solid obtained (18.4 g) is then added to 2,6-diaminopyridine (12.1 g). The product obtained after hydrolysis and neutralization with sodium hydroxide (14 g); m.p. approximately 140° C.) is dissolved in concentrated hydrochloric acid (d=1.19; 100 cc). The precipitate obtained after hydrolysis with distilled water (500 cc) followed by neutralization with 10N sodium hydroxide is separated by filtration, washed with distilled water (5×50 cc) and methanol (2×50 cc), and then air-dried. 2-Amino-7-(3-methylphenyl)-1,8-naphthyridine (7.3 g), m.p. 180° C., is obtained.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 3-methylacetophenone | 13.4 g | CC1=CC=CC(=C1)C(=O)C | C9H10O
reactant | ethyl formate | 11 g | C(=O)OCC | C3H6O2
reactant | 2,6-diaminopyridine | 12.1 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | sodium hydroxide | 14 g | [OH-].[Na+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | hydrochloric acid | 100 cc | Cl | ClH
solvent | water | 500 cc | O | H2O
product | 2-Amino-7-(3-methylphenyl)-1,8-naphthyridine | 7.3 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=CC=C1)C | C15H13N3
